US09062055B2
Step 6. 2-(1-Aminoethyl)-1-(3-fluorophenyl)-1H-indole-3-carbonitrile
A mixture of 2-acetyl-1-(3-fluorophenyl)-1H-indole-3-carbonitrile (43 mg, 0.15 mmol) and ammonium acetate (0.119 g, 1.54 mmol) in methanol (1.5 mL) and acetonitrile (1.5 mL) was heated at 65° C. in a sealed tube for 1 hour. After cooling to room temperature, sodium cyanoborohydride (29 mg, 0.46 mmol) was added to the resultant mixture. The reaction was heated at 65° C. overnight. The reaction was then cooled to room temperature, quenched with saturated NaHCO3 solution, and extracted with dichloromethane. The combined organic layers were dried over MgSO4 and concentrated to give the desired product (43 mg), which was used directly in the next step. LCMS calculated for C17H15FN3(M+H)+: m/z=280.1. Found: 280.1.

reactant | 2-acetyl-1-(3-fluorophenyl)-1H-indole-3-carbonitrile | 0.15 mmol, 43 mg | C(C)(=O)C=1N(C2=CC=CC=C2C1C#N)C1=CC(=CC=C1)F | C17H11FN2O
reactant | ammonium acetate | 1.54 mmol, 0.119 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 0.46 mmol, 29 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 1.5 mL | CO | CH4O
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | 2-(1-Aminoethyl)-1-(3-fluorophenyl)-1H-indole-3-carbonitrile | 43 mg | NC(C)C=1N(C2=CC=CC=C2C1C#N)C1=CC(=CC=C1)F | C17H14FN3
